US05635527
t-Butyl 4-aminophenoxyacetate (7.00 g, 31.4 mmol) and succinimide (3.11 g, 31.4 mmol) were added to ethanol (40 ml), and a 37% aqueous formaldehyde solution (2.55 g, 31.4 mmol) was added. The mixture was refluxed under heating for 4 hours. Low boiling matters were distilled away from the reaction mixture under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate) to give 8.37 g of t-butyl 4-(succinimidomethylamino)phenoxyacetate as a yellow solid (84%). This solid (8.30 g, 26.0 mmol) was dissolved in dimethyl sulfoxide (50 ml) and sodium borohydride (989 mg, 26.0 mmol) was added, which was followed by stirring at 100° C. for 30 minutes. After cooling, water was poured into the reaction mixture and the mixture was extracted with diethyl ether. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. After filtration, low boiling matters were distilled away from the filtrate under reduced pressure and the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=1/1) to give 3.62 g of t-butyl 4-(methylamino)phenoxyacetate as a yellow oil (59%).

reactant | t-Butyl 4-aminophenoxyacetate | 31.4 mmol, 7.00 g | NC1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C12H17NO3
reactant | succinimide | 31.4 mmol, 3.11 g | C1(CCC(N1)=O)=O | C4H5NO2
reactant | formaldehyde | 31.4 mmol, 2.55 g | C=O | CH2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | t-butyl 4-(succinimidomethylamino)phenoxyacetate | 8.37 g, 84% | C1(CCC(N1CNC1=CC=C(OCC(=O)OC(C)(C)C)C=C1)=O)=O | C17H22N2O5
